US08278290B2
b) Preparation of Sodium {4-[6-Methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzo[b]furan-2-yl]-pyrazol-1-yl}-acetate (Entry 29, Table 1)
To a stirred solution of {4-[6-methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzofuran-2-yl]-pyrazol-1-yl}-acetic acid ethyl ester (25 mg, 0.051 mmol) in a mixture of THF (1 mL) and water (1 mL) was added sodium hydroxide (70 mg, 1.75 mmol) and the reaction allowed to stir overnight at ambient temperature. After this time the reaction was concentrated under vacuum and the residue dissolved in water (20 mL) and washed with diethyl ether (5 mL). The aqueous layer was acidified to pH 1-2 with concentrated hydrochloric acid and extracted with ethyl acetate (2×15 mL). The combined organic layers were concentrated under vacuum, the residue was dissolved in methanol (2 mL) and the resulting solution was treated with a methanolic solution of sodium methoxide until a pH of 9 was obtained. The solvent was removed under vacuum and the resulting yellow solid was washed with small portions of cold diethyl ether and isopropanol to provide the title compound (22 mg, 89%). 1H-NMR (D2O) δ 7.48 (s, 1H), 7.28 (s, 1H), 6.68-6.60 (m, 2H), 6.60 (s, 2H), 6.28 (d, J=7.6 Hz, 1H), 4.49 (s, 2H), 3.61 (s, 3H), 3.49 (s, 3H), 3.39 (s, 6H).

reactant | {4-[6-methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzofuran-2-yl]-pyrazol-1-yl}-acetic acid ethyl ester | 0.051 mmol, 25 mg | C(C)OC(CN1N=CC(=C1)C=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2)OC)=O | C26H26N2O8
reactant | sodium hydroxide | 1.75 mmol, 70 mg | [OH-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | Sodium {4-[6-Methoxy-3-(3,4,5-trimethoxy-benzoyl)-benzo[b]furan-2-yl]-pyrazol-1-yl}-acetate | 22 mg, 89% | COC=1C=CC2=C(OC(=C2C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C=2C=NN(C2)CC(=O)[O-])C1.[Na+] | InChI=1S/C24H22N2O8.Na/c1-30-15-5-6-16-17(9-15)34-23(14-10-25-26(11-14)12-20(27)28)21(16)22(29)13-7-18(31-2)24(33-4)19(8-13)32-3;/h5-11H,12H2,1-4H3,(H,27,28);/q;+1/p-1
